US04241078
A 200-ml round-bottom flask equipped with a heating mantle and connected to a water aspirator vacuum system was charged with 15.0 g (0.1 mol) 1-amino-2-methylnaphthalene, 16.4 g (0.1 mol) alpha-bromo-gamma-butyrolactone and 10.7 g (0.1 mol) 2,6-dimethylpyridine. The reaction mixture was maintained at about 94°-101° C. and 160 mm of Hg for about 7 hours. The reaction mixture was cooled, diluted with 100 ml acetone and filtered. The filtrate was evaporated under reduced pressure to give an oily residue which was eluted through a silica gel column with 15% acetone/85% petroleum ether to give 14.6 g of 3-(N-2-methylnaphth-1-ylamino)-gamma-butyrolactone, m.p. 92°-94° C. Elemental analysis for C15H15NO2 showed: %C, calc. 75.0, found 74.5; %H, calc. 5.9, found 5.6; %N, calc. 5.8, found 5.6.

reactant | water | O | H2O
reactant | 1-amino-2-methylnaphthalene | 0.1 mol, 15.0 g | NC1=C(C=CC2=CC=CC=C12)C | C11H11N
reactant | alpha-bromo-gamma-butyrolactone | 0.1 mol, 16.4 g | BrC1C(=O)OCC1 | C4H5BrO2
reactant | 2,6-dimethylpyridine | 0.1 mol, 10.7 g | CC1=NC(=CC=C1)C | C7H9N
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 3-(N-2-methylnaphth-1-ylamino)-gamma-butyrolactone | 14.6 g | CC1=C(C2=CC=CC=C2C=C1)NC1CC(=O)OC1 | C15H15NO2
